US06762320B2
c) N-[4-(3-Fluoro-benzyloxy)-2-trifluoromethyl-phenyl]-malonamic acid methyl ester
0.515 g (1.8 mmol) 4-(3-Fluoro-benzyloxy)-2-trifluoromethyl-phenylamine is dissolved in 20 ml ethyl acetate. 0.38 g (4.51 mmol) sodium hydrogencarbonate is added and the mixture cooled in the ice-bath. 0.27 g (2.0 mmol) methyl malonyl chloride, dissolved in 5 ml ethyl acetate is slowly added over a period of about 15 min. The resulting mixture is stirred at room temperature overnight. 10 ml 2M aqueous hydrochloric acid is added, the organic layer separated and dried over magnesium sulfate. Evaporation of the solvent gives a slightly yellow solid which is recrystallised from methanol. Colorless solid, Yield=58%. MS: m/e=386.1 (M++H).

reactant | 4-(3-Fluoro-benzyloxy)-2-trifluoromethyl-phenylamine | 1.8 mmol, 0.515 g | FC=1C=C(COC2=CC(=C(C=C2)N)C(F)(F)F)C=CC1 | C14H11F4NO
reactant | sodium hydrogencarbonate | 4.51 mmol, 0.38 g | C(O)([O-])=O.[Na+]
reactant | methyl malonyl chloride | 2.0 mmol, 0.27 g | CC(C(=O)Cl)C(=O)Cl | C4H4Cl2O2
reactant | hydrochloric acid | 2M, 10 ml | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | N-[4-(3-Fluoro-benzyloxy)-2-trifluoromethyl-phenyl]-malonamic acid methyl ester | Yield=58% | COC(CC(=O)NC1=C(C=C(C=C1)OCC1=CC(=CC=C1)F)C(F)(F)F)=O | C18H15F4NO4
